US08084649B2
A solution of ammonium chloride (12.5 g, 0.2 mol) in water (30 ml) is added to a mixture of zinc dust (35.7 g, 0.5 mol) and 4-bromo-1-ethyl-2-nitrobenzene (18 g, 0.07 mol) in methanol (720 ml) and water (180 ml). The reaction mixture is refluxed for one hour, then cooled to room temperature and filtered through a plug of diatomaceous earth. The filtrate is concentrated in vacuo, then diluted with water and extracted with ethyl acetate. The combined organic extracts are washed with water and brine, dried over anhydrous sodium sulfate, filtered and the filtrate concentrated in vacuo to yield 5-bromo-2-ethylaniline (14 g), used without further purification in the next step.

reactant | ammonium chloride | 0.2 mol, 12.5 g | [Cl-].[NH4+]
reactant | 4-bromo-1-ethyl-2-nitrobenzene | 0.07 mol, 18 g | BrC1=CC(=C(C=C1)CC)[N+](=O)[O-] | C8H8BrNO2
solvent | water | 30 ml | O | H2O
solvent | methanol | 720 ml | CO | CH4O
solvent | water | 180 ml | O | H2O
catalyst | zinc | 0.5 mol, 35.7 g | [Zn] | Zn
product | 5-bromo-2-ethylaniline | 14 g | BrC=1C=CC(=C(N)C1)CC | C8H10BrN
